US04556717
1-[2-(2,4-Dichlorophenyl)-pentylidene]-2-ethoxycarbonylhydrazine
22.8 g (0.1 mol) of 2-(2,4-dichlorophenyl)-valeronitrile, 10.4 g (0.1 mol) of hydrazinecarboxylic acid ethyl ester and 6.0 g (0.1 mol) of acetic acid are hydrogenated with 11.0 g of Raney nickel in 100 ml of 95% aqueous methanol at room temperature under a normal pressure of hydrogen for 4.5 hours. Filtration and crystallisation yield 22.1 g (70% of theory) of the above product; m.p. 127°-129° C.:

reactant | 2-(2,4-dichlorophenyl)-valeronitrile | 0.1 mol, 22.8 g | ClC1=C(C=CC(=C1)Cl)C(C#N)CCC | C11H11Cl2N
reactant | hydrazinecarboxylic acid ethyl ester | 0.1 mol, 10.4 g | C(C)OC(=O)NN | C3H8N2O2
reactant | acetic acid | 0.1 mol, 6.0 g | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 11.0 g | [Ni] | Ni
solvent | methanol | 100 ml | CO | CH4O
product | 1-[2-(2,4-Dichlorophenyl)-pentylidene]-2-ethoxycarbonylhydrazine | ClC1=C(C=CC(=C1)Cl)C(C=NNC(=O)OCC)CCC | C14H18Cl2N2O2
